### PR TITLE
[Merged by Bors] - feature(Analysis/LocallyConvex/Polar): Show that the polar is weak*-closed and absolutely convex

### PR DESCRIPTION
**Pull request by mans0954**
Show that the absolute polar is weak*-closed and absolutely convex.

Via `closedAbsConvexHull_min` this establishes the easy direction of the Bipolar Theorem #20843

---

- [x] depends on: #22264
- [x] depends on: #22352

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by mans0954** [comment]
Oops - forgot to remove the `WIP` label.

File: Mathlib/Analysis/LocallyConvex/Polar.lean [hunk 1]
```diff
@@ -166,4 +176,35 @@ def polarSubmodule {S : Type*} [SetLike S E] [SMulMemClass S 𝕜 E] (m : S) : S
...
+      aesop
+    have e1 : Balanced 𝕜 (Metric.closedBall (0 : 𝕜) 1) := by
+      rw [e0]
+      exact Seminorm.balanced_closedBall_zero _ _
+    exact Balanced.mulActionHom_preimage (E := F) e1 (B i)
+  · exact Convex.linear_preimage (convex_closedBall _ _) (B i)
+
+/-
+TODO: prove the converse and upgrade this to the bipolar theorem
+-/
```
[the remark this answers is not in the document]
Comment (mans0954) [reply Mathlib/Analysis/LocallyConvex/Polar.lean:203]: I hadn't come across `proof_wanted` before: https://leanprover.zulipchat.com/#narrow/channel/113488-general/topic/.60proof_wanted.60

File: Mathlib/Analysis/Convex/Basic.lean [hunk 2]
```diff
@@ -170,10 +170,10 @@ theorem Convex.is_linear_image (hs : Convex 𝕜 s) {f : E → F} (hf : IsLinear
...
-    Convex 𝕜 (f ⁻¹' s) := by
-  intro x hx y hy a b ha hb hab
-  rw [mem_preimage, f.map_add, f.map_smul, f.map_smul]
+theorem Convex.linear_preimage {𝕜₁ : Type*} [Semiring 𝕜₁] [Module 𝕜₁ E] [Module 𝕜₁ F] {s : Set F}
+    [SMul 𝕜 𝕜₁] [IsScalarTower 𝕜 𝕜₁ E] [IsScalarTower 𝕜 𝕜₁ F] (hs : Convex 𝕜 s) (f : E →ₗ[𝕜₁] F) :
+    Convex 𝕜 (f ⁻¹' s) := fun x hx y hy a b ha hb hab => by
+  rw [mem_preimage, f.map_add, LinearMap.map_smul_of_tower, LinearMap.map_smul_of_tower]
   exact hs hx hy ha hb hab
 
 theorem Convex.is_linear_preimage {s : Set F} (hs : Convex 𝕜 s) {f : E → F} (hf : IsLinearMap 𝕜 f) :
```
[the remark this answers is not in the document]
Comment (mans0954) [reply Mathlib/Analysis/Convex/Basic.lean]: Done.

**Comment by j-loreaux** [comment]
The import increase is unacceptably large. Can you try to find a better place with `#find_home`? Probably something in `Analysis.Normed` is the way to go.

**Comment by mans0954** [comment]
> The import increase is unacceptably large. Can you try to find a better place with `#find_home`? Probably something in `Analysis.Normed` is the way to go, but I'm not certain.

`#find_home LinearMap.polar_AbsConvex` and `#find_home! LinearMap.polar_AbsConvex` both say `[Mathlib.Analysis.LocallyConvex.Polar]`.

(N.B. I haven't used `#find_home` before, so perhaps I'm doing something wrong?)

**Comment by j-loreaux** [comment]
I think that's because in your branch you've edited the `Polar` file to have the necessary imports already.

**Comment by mans0954** [comment]
> I think that's because in your branch you've edited the `Polar` file to have the necessary imports already.

I'm not really getting how this is supposed to work. I removed `LinearMap.polar_AbsConvex` from `Mathlib/Analysis/LocallyConvex/Polar.lean`  and ran `lake build`. Then I created `Mathlib/mwe.lean` as:

```
import Mathlib

variable {𝕜 E F : Type*}

section NormedAlgebra

variable [NormedField 𝕜] [NormedSpace ℝ 𝕜] [AddCommMonoid E] [AddCommMonoid F]
variable [Module 𝕜 E] [Module 𝕜 F]

variable {B : E →ₗ[𝕜] F →ₗ[𝕜] 𝕜} (s : Set E)

variable [Module ℝ F] [IsScalarTower ℝ 𝕜 F] [IsScalarTower ℝ 𝕜 𝕜]

namespace LinearMap

theorem polar_AbsConvex : AbsConvex 𝕜 (B.polar s) := by
  rw [polar_eq_biInter_preimage]
  exact AbsConvex.iInter₂ fun i hi =>
    ⟨Balanced.mulActionHom_preimage (E := F) (balanced_closedBall_zero (E := 𝕜) (r := (1 : ℝ)))
      (𝕜 := 𝕜) (B i), Convex.linear_preimage (convex_closedBall _ _) (B i)⟩

#find_home! polar_AbsConvex

end LinearMap
```

But `#find_home! polar_AbsConvex` just says `[Mathlib]`?

**Comment by mans0954** [comment]
I had another go, copying the lemma into `Mathlib.lean` itself and renaming it. Now `#find_home` says `[Mathlib.Analysis.Normed.Module.Dual]`, so I guess that's our answer?

**Comment by mans0954** [comment]
Weirdly `Analysis.LocallyConvex.Polar` is still showing a change?

```
| File | Base Count | Head Count | Change |
| --- | --- | --- | --- |
| Mathlib.Analysis.LocallyConvex.Polar | 1308 | 1368 | +60 (+4.59%) |
| Mathlib.Analysis.Normed.Module.Dual | 1764 | 1768 | +4 (+0.23%) |
```

**Comment by mans0954** [comment]
@j-loreaux the `large-import` label has been removed from the PR now, so please are you able to take another look?

File: Mathlib/Analysis/LocallyConvex/Basic.lean [hunk 3]
```diff
@@ -103,6 +103,11 @@ theorem balanced_iInter₂ {f : ∀ i, κ i → Set E} (h : ∀ i j, Balanced 
     Balanced 𝕜 (⋂ (i) (j), f i j) :=
   balanced_iInter fun _ => balanced_iInter <| h _
 
+theorem Balanced.mulActionHom_preimage [SMul 𝕜 F] {s : Set F} (hs : Balanced 𝕜 s)
+    (f : E →ₑ[(RingHom.id 𝕜)] F) : Balanced 𝕜 (f ⁻¹' s) := fun a ha x ⟨y,⟨hy₁,hy₂⟩⟩ => by
```
Comment (j-loreaux) [inline Mathlib/Analysis/LocallyConvex/Basic.lean:107]:
```suggestion
    (f : E →[𝕜] F) : Balanced 𝕜 (f ⁻¹' s) := fun a ha x ⟨y,⟨hy₁,hy₂⟩⟩ => by
```

File: Mathlib/Analysis/Normed/Module/Dual.lean [hunk 4]
```diff
@@ -306,3 +308,32 @@ theorem sInter_polar_eq_closedBall {𝕜 E : Type*} [RCLike 𝕜] [NormedAddComm
...
+
+variable {B : E →ₗ[𝕜] F →ₗ[𝕜] 𝕜} (s : Set E)
+
+variable [Module ℝ F] [IsScalarTower ℝ 𝕜 F] [IsScalarTower ℝ 𝕜 𝕜]
+
+theorem polar_AbsConvex : AbsConvex 𝕜 (B.polar s) := by
+  rw [polar_eq_biInter_preimage]
+  exact AbsConvex.iInter₂ fun i hi =>
+    ⟨Balanced.mulActionHom_preimage (E := F) (balanced_closedBall_zero (E := 𝕜) (r := (1 : ℝ)))
+      (𝕜 := 𝕜) (B i), Convex.linear_preimage (convex_closedBall _ _) (B i)⟩
```
Comment (j-loreaux) [inline Mathlib/Analysis/Normed/Module/Dual.lean:328]: Does Lean really need all this information to be supplied manually? It feels like it should be about to figure some of it out itself. 
```suggestion
    ⟨(balanced_closedBall_zero (E := 𝕜) (r := (1 : ℝ))).mulActionHom_preimage (E := F) 
      (𝕜 := 𝕜) (B i), (convex_closedBall _ _).linear_preimage (B i)⟩
```

File: Mathlib/Analysis/Normed/Module/Dual.lean [hunk 5]
```diff
@@ -306,3 +308,32 @@ theorem sInter_polar_eq_closedBall {𝕜 E : Type*} [RCLike 𝕜] [NormedAddComm
...
+
+/-
+TODO: prove the converse and upgrade this to the bipolar theorem
```
Comment (j-loreaux) [inline Mathlib/Analysis/Normed/Module/Dual.lean:331]: I think this TODO needs updating

File: Mathlib/Analysis/Normed/Module/Dual.lean [hunk 6]
```diff
@@ -306,3 +308,32 @@ theorem sInter_polar_eq_closedBall {𝕜 E : Type*} [RCLike 𝕜] [NormedAddComm
...
+-/
+set_option linter.unusedSectionVars false in
```
Comment (j-loreaux) [inline Mathlib/Analysis/Normed/Module/Dual.lean:333]: I don't think that's what you want to do. Are you sure you want these unused section variables as hypotheses?

File: Mathlib/Analysis/LocallyConvex/Basic.lean (hunk 3 above)
Comment (mans0954) [reply Mathlib/Analysis/LocallyConvex/Basic.lean]: @j-loreaux That's what I originally tried, by then in the proof of `LinearMap.polar_AbsConvex`, `Balanced.mulActionHom_preimage` doesn't accept the `B i` argument with the message:
```
application type mismatch
  Balanced.mulActionHom_preimage balanced_closedBall_zero (B i)
argument
  B i
has type
  F →ₗ[𝕜] 𝕜 : Type (max u_3 u_1)
but is expected to have type
  F →ₑ[_root_.id] 𝕜 : Type (max u_3 u_1)
```

File: Mathlib/Analysis/Normed/Module/Dual.lean (hunk 5 above)
Comment (mans0954) [reply Mathlib/Analysis/Normed/Module/Dual.lean]: I only put this in to provide motivation for the rest of the PR. Let's save it for #20843.

File: Mathlib/Analysis/Normed/Module/Dual.lean (hunk 6 above)
Comment (mans0954) [reply Mathlib/Analysis/Normed/Module/Dual.lean]: I've removed this - we can come back to it in #20843

File: Mathlib/Analysis/LocallyConvex/Basic.lean (hunk 3 above)
Comment (mans0954) [reply Mathlib/Analysis/LocallyConvex/Basic.lean]: Okay, I think I have this figured out now.

**Review by j-loreaux — APPROVED** [review]
I think the import increase is okay, as this result does belong in this file, but we'll see what someone else says:

maintainer merge

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge

**Comment by mans0954** [comment]
> I think the import increase is okay, as this result does belong in this file, but we'll see what someone else says:

I've ended up creating a new file for the bipolar theorem as that has extra imports. Possibly we could move `polar_AbsConvex` in there: https://github.com/leanprover-community/mathlib4/pull/20843/commits/eb6e4bdef6198e8de03bf11a2dd726e8d5268331 ?
